simulator lang=spectre
global 0

ahdl_include "./dut/fracn_pll_timer_ref.va"
ahdl_include "./support/ref_step_clk.va"

// Hidden testbench for fractional-N PLL tracking/reacquire after a reference step.

VDD_SRC (VDD 0) vsource type=dc dc=0.9
VSS_SRC (VSS 0) vsource type=dc dc=0

XREF (VDD VSS ref_clk) ref_step_clk \
    period_pre=20n period_post=19.5n t_switch=2u tedge=100p

XDUT (VDD VSS ref_clk fb_clk dco_clk vctrl_mon lock) fracn_pll_timer_ref \
    div_int=8 frac_word=3 acc_modulus=8 f_center=800e6 kvco_hz_per_v=220e6 \
    f_min=500e6 f_max=1.2e9 kp=2.5e6 ki=8.0e4 vctrl_init=0.45 tedge=1n \
    lock_tol=3n lock_count_target=3


tran tran stop=6u maxstep=5n
save ref_clk fb_clk dco_clk vctrl_mon lock VDD VSS
